Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
vancomycin / Kefzol / Cipro / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
Deployment of 4 drug-eluting stents in the RCA ___
 
History of Present Illness:
Mr. ___ is a ___ y/o M with H/O CAD s/p CABG ___ LIMA-D1-LAD 
and LIMA-Radial->OM1-RCA), with prior proximal RCA stent in ___ 
and mild LV systolic dysfunction with LVEF of 45% who presents 
with chest pain after a recent elective angioplasty procedure to 
his LAD.

The patient underwent stress echocardiogram on ___ which showed 
new anteroseptal hypokinesis which was thought to be indicative 
of LAD region ischemia. Outpatient coronary angiography on ___ 
showed native LMCA+3 vessel CAD. The LMCA had a focal 70% 
stenosis. The LAD had an 80% proximal and a 80% distal stenoses 
before the LIMA touchdown. The LCx was patent with an occluded 
large OM1. The RCA had a 70% mid lesion with a 70% distal lesion 
into the PL branch. The LIMA graft was a modest caliber vessel 
that was patent onto a diffusely disease distal LAD and D1 
branches. There was a radial conduit taking off the distal LIMA 
to the OM1, which was open and a jump graft to the RCA, which 
was occluded. The proximal LAD and distal LM were treated with 
overlapping 2.5x12 and 3.0 x 16 mm PROMUS PREMIER drug eluting 
stents post-dilated to 3.0 and 3.5mm respectively. The procedure 
was without complications and the patient returned home the day 
after the procedure.

The patient was going to work this AM. He got on the train from 
___ to ___. When he got off the train in ___, he 
began to feel weakness in his chest, right shoulder, and legs 
similar to symptoms he was having before stent placement with 
associated shortness of breath. The pain lasted almost ___ hours 
and was worsening, prompting him to come to the ED around noon.

On arrival to the ED, the patient's VS were T 98.6 HR 60 BP 
160/80 RR 18 SaO2 98% on RA. The patient described ___ pain and 
received morphine.  ECG showed sinus bradycardia @ 54; Q-waves 
in II,III, AVF; inverted t-waves in III, AVF, and v6, ___, 
submillimeter ST elevation in the anterior leads. First 
troponin-T was negative and the remainder of his lab tests were 
unremarkable. He was admitted to the CMed service for further 
evaluation.  On arrival to the cardiology floor, patient had no 
complaints.

Review of sytems:  
(+) Per HPI. A 12-point ROS was otherwise negative.
 
Past Medical History:
1.  CAD s/p CABG: LIMA-D1 and LAD, left radial artery from LIMA 
to OM1, and RCA at ___ E's in ___ inferior MI and RCA 
stent ___ with EF 45%, IPMI inferolateral 
scarring/thinning. ___ PCI of the distal LM and proximal LAD 
with drug eluting stents
2. Cardiomegaly
3. Gout
4. PAD with aneurysm
5. NSSVT
6. RBBB
7. Hypertension
8. Dyslipidemia
9. Tobacco abuse
10. Hyperkalemia
11. OSA, unable to tolerate CPAP
12. New diagnosis of ocular migraines at Mass Eye and Ear ED ___ 
wks ago
13. Gallbladder
14. Hernia repair w/ mesh; s/p later mesh removal
 
Social History:
___
Family History:
Father heart problem in his ___; mother with heart problems at 
age ___
 
Physical Exam:
On Admission
General: Middle-aged Caucasian man in NAD, comfortable, pleasant
VS: T 97.9, BP 115/77, HR 87, RR 16, SaO2 98% on RA
HEENT: NCAT, PERRL, EOMI
Neck: supple, no JVD
CV: regular rhythm; no murmurs, rubs or gallops
Lungs: CTAB--no wheezing, rales or rhonchi
Abdomen: soft, non-tender, not distended, BS+
Ext: warm and well perfused; Right leg with 1+ edema that 
patient reports his chronic from his previous aneurysm surgery, 
2+ distal pulses bilaterally, Right groin with no hematoma or 
signs of pseudoaneurysm but there is some surrounding echymosis
Neuro: moving all extremities grossly
 
On discharge
General: in NAD, comfortable, pleasant
VS: T 98.1 BP 137/77 (118-140) HR 59-66 RR ___ SaO2 98% on RA
 
Pertinent Results:
___ 12:15PM BLOOD WBC-9.7 RBC-4.41* Hgb-14.6 Hct-43.4 
MCV-98 MCH-33.0* MCHC-33.6 RDW-12.0 Plt ___
___ 12:15PM BLOOD Neuts-79.9* Lymphs-11.8* Monos-5.5 
Eos-1.7 Baso-1.1
___ 06:20AM BLOOD UreaN-15 Creat-0.9 Na-141 K-3.9 Cl-105
___ 12:15PM BLOOD Calcium-9.0 Phos-3.1 Mg-2.2

ECG ___
Sinus rhythm. Inferior and anterior myocardial infarctions of 
indeterminate age. Non-specific inferior and lateral T wave 
inversions. Cannot rule out myocardial ischemia. Clinical 
correlation is suggested. Compared to tracing #2 the findings 
are similar. 

CXR ___
Frontal and lateral views of the chest were obtained. The 
patient is status post median sternotomy and CABG. The cardiac 
silhouette is mildly enlarged. No definite focal consolidation 
or pleural effusion is seen. There is no overt pulmonary edema. 
The mediastinal contours are unremarkable.

Coronary angiography ___     
1.  Selective coronary angiography of this right dominant system 
revealed a patent LM-LAD stent. Other left coronary angiography 
was unchanged from ___ study. The RCA had 70% proximal 
disease, an 80% mid lesion, and 80% distal disease in a PL.
2.  Arterial and venous graft angiography was not performed as 
it was performed on ___.
3..  Successful PCI of the RCA with a 3.0 x 16mm, 3.5 x 16mm, 
3.5 x 32mm, and a 4.0 x 16mm PROMUS PREMIER RX drug eluting 
stents. Final angiography revealed no residual stenosis, a small 
covered dissection at the mid-RCA, and TIMI 3 flow (see ___ 
comments).

Echocardiogram ___
The left atrium is mildly dilated. There is mild symmetric left 
ventricular hypertrophy with normal cavity size. There is mild 
to moderate regional left ventricular systolic dysfunction with 
inferior and inferolateral akinesis. The remaining segments 
contract normally (LVEF = 35-40%). Right ventricular chamber 
size and free wall motion are normal. The ascending aorta is 
mildly dilated. The aortic valve leaflets (3) are mildly 
thickened but aortic stenosis is not present. The mitral valve 
leaflets are mildly thickened. There is no mitral valve 
prolapse. Trivial mitral regurgitation is seen. The pulmonary 
artery systolic pressure could not be determined. There is no 
pericardial effusion. 
IMPRESSION: Mild to moderate regional left ventricular systolic 
dysfunction, c/w CAD. Mildly dilated ascending aorta. 

On Discharge
___ 06:10AM BLOOD WBC-8.5 RBC-4.19* Hgb-14.0 Hct-41.4 
MCV-99* MCH-33.4* MCHC-33.8 RDW-12.0 Plt ___
___ 06:10AM BLOOD Glucose-112* UreaN-17 Creat-1.0 Na-138 
K-4.0 Cl-108 HCO3-24 AnGap-10
___ 06:10AM BLOOD cTropnT-<0.01
___ 09:40PM BLOOD cTropnT-<0.01
___ 06:10AM BLOOD Calcium-9.0 Phos-3.4 Mg-2.0
 
Brief Hospital Course:
Mr. ___ is a ___ y/o M with H/O CAD s/p CABG and multiple 
stents and mild LV systolic dysfunction with LVEF of 45% who 
presents with chest pain 2 days after stenting of his native 
LMCA and proximal LAD.  
 
# CAD - The patient underwent recent ___ to the distal 
LMCA and proximal LAD. He presented with chest discomfort 
similar to his baseline angina, but without acute ischemic ECG 
changes or biomarker elevation to suggest subacute stent 
thrombosis. Coronary angiography ___ showed patent recent 
stents with stable (from 5 days earlier) RCA CAD for which 4 
drug eluting stents were placed. He was continued on dual 
antiplatelet therapy for ___ year from ___. He was not started 
on nitrates for his residual OM occlusion because he declined to 
discontinue his PDE-5 inhibitor (vardenafil). CAD management 
with statin, beta blocker, calcium channel blocker and 
ACE-inhibitor was continued. He was also encouraged to stop 
smoking. He was chest pain free on day of discharge and 
ambulated without chest pain or significant shortness of breath.

# Hypertension - continued on metoprolol, amlodipine, lisinopril

# Hyperlipidemia - continued home atorvastatin 80 mg

# LV systolic dysfunction - TTE showed lower LVEF than before, 
without clinical evidence of diastolic heart failure 
exacerbation

## Transitional issue
- Patient will need to take ASA indefinitely and clopidogrel 75 
mg daily until ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 5 mg PO DAILY 
2. Clopidogrel 75 mg PO HS 
3. Lisinopril 20 mg PO BID 
4. Metoprolol Tartrate 150 mg PO DAILY 
5. Metoprolol Tartrate 100 mg PO QPM 
6. LeVITRA (vardenafil) 20 mg oral once a day as needed 
7. Aspirin EC 325 mg PO DAILY 
8. Atorvastatin 80 mg PO DAILY
 
Discharge Medications:
1. Amlodipine 10 mg PO DAILY 
RX *amlodipine 10 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
2. Aspirin EC 325 mg PO DAILY 
3. Clopidogrel 75 mg PO HS 
4. Lisinopril (lisinopril) 20 mg ORAL BID 
5. Metoprolol Tartrate 150 mg PO DAILY 
6. Metoprolol Tartrate 100 mg PO QPM 
7. Lidocaine 5% Patch 1 PTCH TD DAILY 
RX *lidocaine-menthol [LidoPatch] 4 %-1 % 1 patch daily Disp #*7 
Patch Refills:*0
8. LeVITRA (vardenafil) 20 mg oral once a day as needed 
9. Atorvastatin 80 mg PO DAILY
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Biomarker negative unstable angina
Coronary Artery Disease, with prior bypass surgery and coronary 
artery stenting
Peripheral arterial disease
Erectile dysfunction
Hypertension
Hyperlipidemia
Tobacco abuse
Chronic left ventricular systolic heart failure
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr ___,

It was a pleasure taking care of you at ___ 
___.

You presented to the hospital with chest discomfort and weakness 
just 2 days after your cardaic catheterization. Blood tests 
showed you were not having an acute heart attack. Your pain is 
likely from arteries that were not opened from your previous 
procedure.  We placed additional 4 stents in your heart.  We are 
glad to see that your chest discomfort has since improved after 
the procedure.
 
Followup Instructions:
___